US09227971B2
Step 2: Preparation of (1R,5S)-tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate
This compound was prepared from (1R,5S)-tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate and 2-phenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine, following essentially the similar procedures given in Preparative Example 1-1.

reactant | (1R,5S)-tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-iodopyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2I)C=2C[C@H]1CC[C@@H](C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C30H50IN5O4Si2
reactant | 2-phenyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | C1(=CC=CC=C1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H20BNO2
product | (1R,5S)-tert-butyl 3-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-8-azabicyclo[3.2.1]oct-3-ene-8-carboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C=2C[C@H]1CC[C@@H](C2)N1C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C41H58N6O4Si2
